US06855710B2
(Z)-3-[1-(4-methylaminocarbonyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone
Prepared analogously to Example 18 from (Z)-3-[1-(4-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone, methylamine-hydrochloride, TBTU, HOBt and N-ethyl-N,N-diisopropylamine in DMF.

reactant | (Z)-3-[1-(4-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone | C(=O)(O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H16N2O3
reactant | methylamine-hydrochloride | Cl.CN
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-N,N-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-[1-(4-methylaminocarbonyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone | CNC(=O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C23H19N3O2
